US07652049B2
A solution of potassium bis(trimethylsilyl)amide (464 μL of a 0.5M solution in toluene, 0.232 mmol) was added dropwise to a stirred solution of benzyl(2-hydroxy-2-pyridin-2-ylethyl){[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate (134.3 mg, 0.232 mmol) in dry THF (10 mL) at room temperature under N2. After stirring at room temperature for 1 h, the reaction was quenched with saturated NH4Cl (10 mL) and extracted with EtOAc (3×20 mL). The combined extracts were dried (Na2SO4) and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 25×160 mm, 0-70% EtOAc in hexanes gradient) to afford 3-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-5-pyridin-2-yl-1,3-oxazolidin-2-one. Rf=0.58 (50% EtOAc/hexanes). LCMS calc.=471.19; found=471.2 (M+1)+.

reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | benzyl(2-hydroxy-2-pyridin-2-ylethyl){[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate | 0.232 mmol, 134.3 mg | C(C1=CC=CC=C1)OC(N(CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)CC(C1=NC=CC=C1)O)=O | C33H33F3N2O4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-5-pyridin-2-yl-1,3-oxazolidin-2-one | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN1C(OC(C1)C1=NC=CC=C1)=O)OC | C26H25F3N2O3
